US07601686B2
Step 1: Preparation of the racemic 1-amino-2-vinylcyclopropane carboxylic acid ethyl ester hydrochloride and the Separation of the Two Enantiomers
Boc-1-amino-2-vinylcyclopropane carboxylic acid ethyl ester (1.50 g, 5.88 mmol) was dissolved in 4N HCl/dioxane (10 mL, 40 mmol) and was stirred overnight at room temperature. The reaction mixture was concentrated to supply racemic 1-amino-2-vinylcyclopropane carboxylic acid ethyl ester hydrochloride as a brownish oil (1.04 g, 92%). The two enantiomers were then separated by chiral HPLC. Conditions: Chiralpak AD column, 50×500 mm, 20 μM; 95% 0.01% DEA/hexane:5% ethanol as solvent; flow rate:75 mL/min; stop time:45 min; abs=207 nm; maximum load: 300 mg. After separation, 210 mg of enantiomer 50177-020A (retention time=25 min) and 235 mg of enantiomer 50177-020B (retention time=32 min) were collected. 50177-020: 1H NMR(DMSO-d6, 500 MHz) δ 8.80(s, br, 3H), 5.64 (m, 1H), 5.38 (d, J=17.1 Hz, 1H), 5.21(d, J=10.4 Hz, 1H), 4.21 (m, 2H), 2.34 (m, 1H), 1.68(m, 2H), 1.23 (t, J=7.2 Hz, 3H).; LC-MS (retention time 0.64 min), MS m/z 156(MH+).

reactant | Boc-1-amino-2-vinylcyclopropane carboxylic acid ethyl ester | 5.88 mmol, 1.50 g | C(C)OC(=O)C1(C(C1)(C=C)C(=O)OC(C)(C)C)N | C13H21NO4
reactant | HCl dioxane | 40 mmol, 4N, 10 mL | Cl.O1CCOCC1
product | racemic 1-amino-2-vinylcyclopropane carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)C1(C(C1)C=C)N | InChI=1S/C8H13NO2.ClH/c1-3-6-5-8(6,9)7(10)11-4-2;/h3,6H,1,4-5,9H2,2H3;1H
